US04734411
Pyrrolizidine-7a-carboxylic acid hydrochloride
A mixture of pyrrolizidine-7a-carboxylic acid ethylester (35.4 g, 0.193 mol) in 360 ml of 10% aqueous sodium hydroxide solution and 360 ml of ethanol was stirred at 10° to 15° C. for 2.5 hours. The reaction mixture was acidified with concentrated hydrochloric acid and then evaporated in vacuo to dryness. After addition of ethanol to the remaining residue, undissolved sodium chloride was filtered-off and the filtrate was evaporated in vacuo to dryness. The purifying operation described above was repeated twice. To the remaining residue, acetone was added to form crystals. The crystals were obtained through filtration and washed with small amount of acetone to give 34.2 g (92.4%) of the desired compound.

reactant | pyrrolizidine-7a-carboxylic acid ethylester | 0.193 mol, 35.4 g | C(C)OC(=O)C12CCCN2CCC1 | C10H17NO2
reactant | hydrochloric acid | Cl | ClH
solvent | sodium hydroxide | 360 ml | [OH-].[Na+]
solvent | ethanol | 360 ml | C(C)O | C2H6O
product | Pyrrolizidine-7a-carboxylic acid hydrochloride | 34.2 g, 92.4% | Cl.C1CCN2CCCC12C(=O)O | InChI=1S/C8H13NO2.ClH/c10-7(11)8-3-1-5-9(8)6-2-4-8;/h1-6H2,(H,10,11);1H
